US07109148B2
First, 0.8 g of sodium hydride was added to a mixture of 3.17 g of 2-chloro-3-nitropyridine, 2.12 g of methyl thioglycolate, and 20 ml of tetrahydrofuran at 0° C. After stirring at room temperature for 2 hours, the reaction mixture was poured into ice water, and the mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and then concentrated. The residue was washed with diisopropyl ether and hexane to give 3.1 g of 2-(methoxycarbonyl)methylthio-3-nitropyridine.

reactant | sodium hydride | 0.8 g | [H-].[Na+]
reactant | 2-chloro-3-nitropyridine | 3.17 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | methyl thioglycolate | 2.12 g | C(CS)(=O)OC | C3H6O2S
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-(methoxycarbonyl)methylthio-3-nitropyridine | 3.1 g | COC(=O)CSC1=NC=CC=C1[N+](=O)[O-] | C8H8N2O4S
